US07094769B2
Ethyl 9-{(3aR,4R,6S,6aS)-6-[(ethylamino)carbonyl]-2,2-dimethyltetrahydrofuro[3,4-d][1.3]dioxol-4-yl}-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate
To a solution of (3aS,4S,6R,6aR)-6-[6-[(2,2-diphenylethyl)amino]-2-(ethoxycarbonyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxylic acid (Preparations 67 and 68) (20.0 g, 0.0349 moles) in anhydrous tetrahydrofuran (100 ml) under an atmosphere of nitrogen was added 1,1′-carbonyldiimidazole (6.80 g, 0.0418 moles) and the resultant mixture was stirred at ambient temperature for 1.5 hours. To this solution was then added a solution of ethylamine in tetrahydrofuran (24.4 ml of a 2M solution, 0.0488 moles) with cooling at 15° C., and the resultant mixture was then stirred at ambient temperature for 2 hours. To the mixture was added more of a solution of ethylamine in tetrahydrofuran (3.5 ml of a 2M solution, 0.0007 moles) and stirring was continued for an additional 2 hours after which time deionised water (10 ml) was added. The resultant mixture was concentrated in vacuo and the residue was then partitioned between ethyl acetate (200 ml) and aqueous citric acid (200 ml of a 0.5M solution). The layers were separated and the aqueous phase was extracted with ethyl acetate (50 ml). The organic phases were combined and were washed successively with deionised water (200 ml), saturated aqueous sodium bicarbonate solution (200 ml) and saturated brine (200 ml), and were subsequently dried over anhydrous magnesium sulphate and concentrated in vacuo to give the crude product as a cream coloured foam (20.22 g). The crude product was purified by flash chromatography on silica gel (700 g) eluting with a gradient system of 65% v/v ethyl acetate in heptane changing to 80% v/v ethyl acetate in heptane changing to ethyl acetate, to give the title compound (16.55 g) as a colourless foam.

reactant | (3aS,4S,6R,6aR)-6-[6-[(2,2-diphenylethyl)amino]-2-(ethoxycarbonyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxylic acid | 0.0349 moles, 20.0 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)OCC)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)O)C2=CC=CC=C2 | C30H31N5O7
reactant | 1,1′-carbonyldiimidazole | 0.0418 moles, 6.80 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethylamine | C(C)N | C2H7N
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl 9-{(3aR,4R,6S,6aS)-6-[(ethylamino)carbonyl]-2,2-dimethyltetrahydrofuro[3,4-d][1.3]dioxol-4-yl}-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 16.55 g | C(C)NC(=O)[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC(=NC(=C1N=C2)NCC(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC | C32H36N6O6
